US04317829
The reaction of 4-bromo-3-(bromoethyl)isothiazole (8.5 g) with cysteamine (from cysteamine hydrochloride (3.76 g)) was performed under conditions similar to those described in Example 72. From the reaction there was obtained 4-bromo-3-[(2-aminoethyl)thiomethyl]isothiazole hydrobromide, which, following recrystallisation from ethanol-ether and acetonitrile, gave needles (4.05 g), m.p. 111°-112°. The amine base (2.73 g) was isolated by basification with sodium hydroxide and extraction with chloroform.

reactant | 4-bromo-3-(bromoethyl)isothiazole | 8.5 g | BrC=1C(=NSC1)CCBr | C5H5Br2NS
reactant | cysteamine | 3.76 g | NCCS | C2H7NS
product | 4-bromo-3-[(2-aminoethyl)thiomethyl]isothiazole hydrobromide | Br.BrC=1C(=NSC1)CSCCN | InChI=1S/C6H9BrN2S2.BrH/c7-5-3-11-9-6(5)4-10-2-1-8;/h3H,1-2,4,8H2;1H
